US07795267B2
(Phenylmethyl)tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate
Bis(phenylmethyl)2-(1-hydroxy-1-methylethyl)-1,4-piperazinedicarboxylate (1.7 g, 4.2 mmol) was dissolved in N,N-dimethylformamide (20 mL). 60% Sodium hydride (0.25 g, 6.3 mmol) was added thereto, and the mixture was stirred at room temperature for 2 hours. The reaction solution was diluted with ethyl acetate (200 ml), and then washed with an aqueous sodium hydrogen carbonate solution. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=3:1 to 1:1) and recrystallized from ethyl acetate-hexane to obtain the title compound (0.97 g, yield 76%).

reactant | Bis(phenylmethyl)2-(1-hydroxy-1-methylethyl)-1,4-piperazinedicarboxylate | 4.2 mmol, 1.7 g | C1(=CC=CC=C1)COC(=O)N1C(CN(CC1)C(=O)OCC1=CC=CC=C1)C(C)(C)O | C23H28N2O5
reactant | Sodium hydride | 6.3 mmol, 0.25 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (Phenylmethyl)tetrahydro-1,1-dimethyl-3-oxo-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxylate | 0.97 g, yield 76% | C1(=CC=CC=C1)COC(=O)N1CC2N(CC1)C(OC2(C)C)=O | C16H20N2O4
